US05716624
Preparation of 4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzenemethanol
780 mg (2 mmol) of 4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzyl acetate and 30 ml of THF were introduced into a round-bottomed flask. 5 ml of a 2N methanolic sodium hydroxide solution were added and stirring was carried out for 30 min. The reaction mixture was poured into water and extracted with ethyl ether. The organic phase was separated by settling, dried over magnesium sulfate and evaporated. The residue obtained was triturated in heptane and filtered, 419 mg (60%) of the expected compound, with a melting point of 85°-86° C., were recovered.

reactant | 4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzyl acetate | 2 mmol, 780 mg | C(C)(=O)OCC1=CC=C(C=C1)C#CC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O | C26H30O3
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | O | H2O
product | 4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzenemethanol | OC(C#CC1=CC=C(C=C1)CO)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C24H28O2
